US04578396
0.275 g (0.011 mol) of sodium is introduced into a boiling solution of 8.05 g (0.116 mol) of 1,2,4-triazole in 400 ml of n-butanol. 24 g (0.105 mol) of 2-(3,4-dichlorophenyl)-2-propargyl-oxirane, dissolved in 50 ml of n-butanol, are then added. The solution is heated at the boil for 12 hours, the solvent is distilled off in vacuo, the residue is taken up in 200 ml of trichloromethane, the solution is washed with twice 50 ml of water, and the organic phase is dried over anhydrous sodium sulphate and then filtered over 200 g of silica gel. 18.45 g (53.6% of theory) of 4-(3,4-dichlorophenyl)-5-(1,2,4-triazol-1-yl)-pent-1-in-4-ol are obtained as colorless crystals of melting point 114° C.

reactant | sodium | 0.011 mol, 0.275 g | [Na] | Na
reactant | 1,2,4-triazole | 0.116 mol, 8.05 g | N1N=CN=C1 | C2H3N3
reactant | 2-(3,4-dichlorophenyl)-2-propargyl-oxirane | 0.105 mol, 24 g | ClC=1C=C(C=CC1Cl)C1(OC1)CC#C | C11H8Cl2O
solvent | n-butanol | 400 ml | C(CCC)O | C4H10O
solvent | n-butanol | 50 ml | C(CCC)O | C4H10O
product | 4-(3,4-dichlorophenyl)-5-(1,2,4-triazol-1-yl)-pent-1-in-4-ol | 18.45 g, 53.6% | ClC=1C=C(C=CC1Cl)C(CC#C)(CN1N=CN=C1)O | C13H11Cl2N3O
